US06960594B2
A mixture of 3-({5-[2-(Pyridin-2-ylamino)-ethylcarbamoyl]-thiophene-2-carbonyl}-amino)-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid methyl ester (40 mg, 0.069 mmol), lithium hydroxide (34 mg, 1.39 mmol), in acetonitrile (10 mL) was stirred for 4 hrs at room temperature. The solvent was removed and the crude reaction product was taken up in ethyl acetate (40 mL). The solution was neutralized with acetic acid (1.0 mL). Solvent was than dried over sodium sulfate and evaporated. Purification of the residue on silica gel (10% MeOH-EtOAc) gave 40 mg of pure acetic acid salt of 3-({5-[2-(Pyridin-2-ylamino)-ethylcarbamoyl]-thiophene-2-carbonyl}-amino)-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid (86%). 1HNMR (300 MHz, CD3OD) δ: 2.22 (s, 3H), 2.61 (s, 6H), 3.57 (m, 4H), 3.82 (m, 2H), 6.50(d, 1H), 6.69(m, 2H), 6.90(s, 2H), 7.42(m, 3H), 8.01 (m, 1H). Compound XXXVI: 2-Benzenesulfonylamino-3-({5-[(1H-benzoimidazol-2-ylmethyl)-carbamoyl]-thiophene-2-carbonyl-amino)-propionic acid.

reactant | 3-({5-[2-(Pyridin-2-ylamino)-ethylcarbamoyl]-thiophene-2-carbonyl}-amino)-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid methyl ester | 0.069 mmol, 40 mg | COC(C(CNC(=O)C=1SC(=CC1)C(NCCNC1=NC=CC=C1)=O)NS(=O)(=O)C1=C(C=C(C=C1C)C)C)=O | C26H31N5O6S2
reactant | lithium hydroxide | 1.39 mmol, 34 mg | [OH-].[Li+]
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-({5-[2-(Pyridin-2-ylamino)-ethylcarbamoyl]-thiophene-2-carbonyl}-amino)-2-(2,4,6-trimethyl-benzenesulfonylamino)-propionic acid | 86% | N1=C(C=CC=C1)NCCNC(=O)C1=CC=C(S1)C(=O)NCC(C(=O)O)NS(=O)(=O)C1=C(C=C(C=C1C)C)C | C25H29N5O6S2
